US06809199B2
STEP B: tert-Butyl (diphenoxyphosphoryl)acetate
To a solution of diphenylphosphite (2.25 mL) in dichloromethane at 0° C. was added t-butylbromoacetate (1.48 mL) followed by triethylamine (1.95 mL). The mixture was stirred at 0° C. for 15 min and then at rt for 1 h before being quenched with water and extracted into ethyl acetate, dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate to give the title compound. 1H NMR (500 MHz, CDCl3): δ 7.40-7.18 (m, 10H); 3.22 (s, 1H); 3.18 (s, 1H); 1.50 (s, 9H).

reactant | diphenylphosphite | 2.25 mL | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)[O-]
reactant | t-butylbromoacetate | 1.48 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | triethylamine | 1.95 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl (diphenoxyphosphoryl)acetate | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)CC(=O)OC(C)(C)C | C18H21O5P
